US04115575
5.4 ml of chloroformic acid methyl ester are added dropwise, whilst stirring, to 12.4 g of 5-(2'-aminoethyl)-2-(3'-isopropylamino-2'-hydroxy-propoxy)-pyridine, dissolved in a mixture of 45 ml of isopropanol and 45 ml of water, at a temperature of 20°-35° C., with cooling by means of ice water, if necessary. The reaction mixture is stirred further for one hour at room temperature and is evaporated in vacuo, and the evaporation residue is dissolved in approx. 30 ml of water. This solution is extracted with 20 ml of ethyl acetate and the acid aqueous phase is rendered alkaline with concentrated sodium hydroxide solution. The oil which precipitates is extracted with dichloromethane. After drying the solution over magnesium sulphate and evaporating off the solvent, 2-(3'-isopropylamino-2'-hydroxy-propoxy)-5-(2'-methoxycarbonylaminoethyl)-pyridine is obtained, melting at 97°-99° C. after recrystallisation from a little butanone.

reactant | chloroformic acid methyl ester | 5.4 ml | COC(=O)Cl | C2H3ClO2
reactant | 5-(2'-aminoethyl)-2-(3'-isopropylamino-2'-hydroxy-propoxy)-pyridine | 12.4 g | NCCC=1C=CC(=NC1)OCC(CNC(C)C)O | C13H23N3O2
solvent | isopropanol | 45 ml | C(C)(C)O | C3H8O
solvent | water | 45 ml | O | H2O
product | 2-(3'-isopropylamino-2'-hydroxy-propoxy)-5-(2'-methoxycarbonylaminoethyl)-pyridine | C(C)(C)NCC(COC1=NC=C(C=C1)CCNC(=O)OC)O | C15H25N3O4
